US09085576B2
To a solution of 3,5-dichloropyrazine-2-carboxylic acid (0.304 g, 1.58 mmol) in MeOH (5 mL) and diethyl ether (5 mL) at room temperature was added (trimethylsilyl)diazomethane (2.0 M solution in hexanes, 4.00 mL, 8.00 mmol). The reaction mixture was stirred at RT for 30 min and concentrated. Purification by flash column chromatography on silica gel (5% to 20% EtOAc in hexanes) gave methyl 3,5-dichloropyrazine-2-carboxylate (0.312 g, 1.51 mmol, 96% yield) as a white solid. LC/MS

reactant | 3,5-dichloropyrazine-2-carboxylic acid | 1.58 mmol, 0.304 g | ClC=1C(=NC=C(N1)Cl)C(=O)O | C5H2Cl2N2O2
reactant | (trimethylsilyl)diazomethane | 8.00 mmol, 2.0 M, 4.00 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | MeOH | 5 mL | CO | CH4O
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
product | methyl 3,5-dichloropyrazine-2-carboxylate | 1.51 mmol, 0.312 g, 96% yield | ClC=1C(=NC=C(N1)Cl)C(=O)OC | C6H4Cl2N2O2
